US08729078B2
1-(3-(6-tert-Butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-3-(4-(morpholine-4-carbonyl)phenylamino)-1H-pyrazole-4-carbonitrile (46 mg, 0.074 mmol) was dissolved in 4 mL of THF and 0.5 mL of water. Then dihydrogen tris(dimethylphosphinito)hydroplatinate (3 mg, 0.0069 mmol) was added and the mixture was stirred under fluxing. After 1 hr, TLC indicated complete consumption of the starting material. LC/MS indicated clean desired product formed. The mixture was evaporated and the residue was dissolved in dichloromethane and dried over sodium sulfate, filtered through micron filter and evaporated. The residue was purified through flash column chromatography using methanol in methylene chloride (1.5% to 5% methanol in 10 minutes, 12 g silica gel) to give 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide as a white solid (36 mg, 76.1% yield). LC/MS clacd for C34H34FN7O5 (m/e) 639.26, obsd 640.1 (M+H, ES+); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38 (s, 9H), 3.50 (br., 4H), 3.59 (br., 4H), 4.38 (br. s., 2H), 4.78 (t, J=5.2 Hz, 1H), 7.36 (d, J=8.6 Hz, 3H), 7.52-7.69 (m, 5H), 7.76 (d, J=13.1 Hz, 2H), 7.88 (s, 1H), 8.54 (m, 2H), 9.44 (s, 1H).

reactant | 1-(3-(6-tert-Butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-3-(4-(morpholine-4-carbonyl)phenylamino)-1H-pyrazole-4-carbonitrile | 0.074 mmol, 46 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=CC=C(C=C1)C(=O)N1CCOCC1)CO | C34H32FN7O4
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide | 36 mg, 76.1% yield | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)C(=O)N1CCOCC1)CO | C34H34FN7O5
